US04172151
Using the method described in Example 1, 2-bromomethoxybenzene is reacted with 2,6-di(t-butyl)hydroquinone to provide 2,6-di(t-butyl)-4-hydroxy-4-(2'-methoxyphenyl)-2,5-cyclohexadienone. This product is dissolved in ethanol and reduced with hydrogen gas on a Parr apparatus using palladium on charcoal as the catalyst. The white solid product is recrystallized from benzene to provide 2,6-di(t-butyl)-4-(2'-methoxyphenyl)phenol, m.p. 98.5°-100° C.

reactant | 2-bromomethoxybenzene | BrCOC1=CC=CC=C1 | C7H7BrO
reactant | 2,6-di(t-butyl)hydroquinone | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
product | 2,6-di(t-butyl)-4-hydroxy-4-(2'-methoxyphenyl)-2,5-cyclohexadienone | C(C)(C)(C)C=1C(C(=CC(C1)(C1=C(C=CC=C1)OC)O)C(C)(C)C)=O | C21H28O3
